US07576099B2
4-(3,3-dimethylbut-1-ynyl)-2-methylbenzoic acid
Ethyl 2-methyl-4-(3,3-dimethylbut-1-ynyl)benzoate (4.8 g, 0.020 mol) and lithium hydroxide (2.8 g, 0.058 mol) were placed in 3:1 mixture of methanol:water (80 mL) and heated at 60° C. for 3.5 h. TLC and LCMS indicated product formation. The reaction was cooled and concentrated in vacuo to a volume of 20 mL. The mixture was placed in an ice-water bath and acidified to pH 5 with conc. HCl. A white solid crashed out which was filtered and washed thoroughly with water. The solid was dried in a vacuum oven to give the product (4.1 g, 97%) as a solid. m/z=215.1 (M−1).

reactant | Ethyl 2-methyl-4-(3,3-dimethylbut-1-ynyl)benzoate | 0.020 mol, 4.8 g | CC1=C(C(=O)OCC)C=CC(=C1)C#CC(C)(C)C | C16H20O2
reactant | lithium hydroxide | 0.058 mol, 2.8 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | water | 80 mL | O | H2O
product | 4-(3,3-dimethylbut-1-ynyl)-2-methylbenzoic acid | 4.1 g, 97% | CC(C#CC1=CC(=C(C(=O)O)C=C1)C)(C)C | C14H16O2
